US05776951
(b) 1-(p-Hydroxyphenyl)-1Cyclopentanecarboxamide
1-Hydroxybenzotriazole (3.68 g, Aldrich), 1-Ethyl-3-(3-Dimethylaminopropyl)-carbodiimide hydrochloride (5.28 g Sigma) and N-Methylmorpholine (2.78 g, Aldrich) were added, under nitrogen, to a stirred solution of the product from Example 4(a) (5.0 g) in dry tetrahydrofuran (THF). The mixture was stirred at RT for four hours, then slowly added to liquid ammonia (excess) at -60° C. After one hour, the mixture was warmed to RT and stirred overnight.

reactant | 1-Hydroxybenzotriazole | 3.68 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-Ethyl-3-(3-Dimethylaminopropyl)-carbodiimide hydrochloride | 5.28 g | Cl.C(C)N=C=NCCCN(C)C
reactant | N-Methylmorpholine | 2.78 g | CN1CCOCC1 | C5H11NO
reactant | ammonia | N | H3N
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(p-Hydroxyphenyl)-1Cyclopentanecarboxamide | OC1=CC=C(C=C1)C1(CCCC1)C(=O)N | C12H15NO2
